US07279499B2
B. Preparation of 2-(2,5-Bis-methoxymethoxy-3-methoxymethyl-phenyl)-cyclopent-1-enecarboxylic acid methyl ester
Purge a solution of 1-bromo-2,5-bis-methoxymethoxy-3-methoxymethyl-benzene (2.76 g, 8.59 mmol) in THF (17 mL) with nitrogen and cool to −70° C. Clowly add a solution of phenyllithium (4.3 mL of a 2.0 M solution in dibutyl ether, 8.59 mmol) to the cooled solution, keeping the temperature below −60° C. After 35 minutes, add a solution of ZnCl2 (8.6 mL of a 1.0 M solution in Et2O, 8.59 mmol) and warm the reaction to 0° C. Purge a solution of 2-trifluoromethanesulfonyloxy-cyclopent-1-enecarboxylic acid methyl ester (2.36 g, 8.59 mmol) in THF (17 mL) with nitrogen. To the cooled zincate solution, add Pd(PPh3)4 (0.496 g, 0.430 mmol) followed by the triflate solution. Heat this mixture to 50° C. overnight then cool to room temperature. Quench the reaction with H2O and extract with EtOAc (3×50 mL). Combine the organic extracts, dry (Na2SO4), filter and concentrate. Purify the crude material using silica gel chromatography eluting with Hex:EtOAc (75:25, then 50:50) to afford the subtitled product (1.76 g, 56%) as an oil. 1H NMR (CDCl3) δ 1.95-2.05 (m, 2H), 2.78-2.85 (m, 4H), 3.42 (s, 3H), 3.47 (s, 6H), 3.57 (s, 3H), 4.51 (s, 2H), 4.80 (s, 2H), 5.12 (s, 2H), 6.74 (d, J=3.1 Hz, 1H), 7.04 (d, J=3.1 Hz, 1H).

reactant | 1-bromo-2,5-bis-methoxymethoxy-3-methoxymethyl-benzene | 8.59 mmol, 2.76 g | BrC1=C(C(=CC(=C1)OCOC)COC)OCOC | C12H17BrO5
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | 2-trifluoromethanesulfonyloxy-cyclopent-1-enecarboxylic acid methyl ester | 8.59 mmol, 2.36 g | COC(=O)C1=C(CCC1)OS(=O)(=O)C(F)(F)F | C8H9F3O5S
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
solvent | THF | 17 mL | C1CCOC1 | C4H8O
solvent | dibutyl ether | C(CCC)OCCCC | C8H18O
solvent | Et2O | CCOCC | C4H10O
solvent | THF | 17 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
catalyst | zincate | [O-]S(=O)(=O)[O-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.430 mmol, 0.496 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,5-Bis-methoxymethoxy-3-methoxymethyl-phenyl)-cyclopent-1-enecarboxylic acid methyl ester | 1.76 g, 56% | COC(=O)C1=C(CCC1)C1=C(C(=CC(=C1)OCOC)COC)OCOC | C19H26O7
